Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abdominal pain, constipation
 
Major Surgical or Invasive Procedure:
Lumbar puncture with interventional radiology (___)
 
History of Present Illness:
___ with h/o type 1 diabetes, gastroparesis, peripheral 
neuropathy, CAD, R BKA, PAD, hypothyroidism, depression, 
presenting with 2 days of nausea, multiple episodes of vomiting, 
and generalized abdominal pain that is worse in the epigastrium. 
She states she has not been passing gas and has not had bowel 
movements. She denies chest pain, dyspnea, lightheadness, 
fevers/chills. She denies headache or vision change. No falls or 
trauma.

Of note, patient had a recent admission for left foot 
cellulitis/osteomyelitis for which she completed a six week IV 
vanc/ceftriaxone for six week course on ___, and had a L 
SFA and popliteal stent placed on ___ for PVD.

In the ED, initial vital signs were: 97.7, 98, 160/83, 18, 100% 
RA  
- Exam notable for:  
Mental status: mildly confused, but A&O to person and place
Dry mucous membranes
Lungs clear to auscultation
Mild generalized abdominal discomfort, greatest in epigastrium

- Labs were notable for...  WBC 14.5 w/88.9% PMN. Hgb 9.6 (b/l 
Hgb ___, plt 409 (b/l plt 200s), INR 1.1, K 3.2 Cr 1.7 (at b/l 
Cr 1.7-1.8), BG 362, LFTs wnl, lipase 10, no  Trop <0.04 x2, MB 
2.

UA w/large leuk esterase, +nitrites, >182 WBC, many bacteria. 
Urine cx and blood cx x2 pending. 
 
VBG pH 7.45 pCO2 39, PO2 47
 
- Studies performed include...

EKG: HR 105, Sinus tach, RBBB + LAFB, no significant change from 
prior

CXR: No free air below the right hemidiaphragm is seen. No acute 
cardiopulmonary process. 

CTA/P: 
1. Large stool burden in rectum with mild surrounding stranding, 
potentially representing stercoral proctitis. Recommend 
disimpaction. 
2. Cirrhosis. 
   
- Patient was given... 
1g ceftriaxone, PO K 40mEq, 1L NS 
 
___ 10:31 IVF  NS  ___ Started  
___ 11:05 IV CeftriaXONE  ___ Started  
___ 11:06 IVF  NS 1 mL ___ Stopped (___)  
___ 11:13 IV Ondansetron 4 mg ___  
___ 12:02 IV CeftriaXONE 1 g ___ Stopped (___)  
___ 13:00 IVF  NS  ___ Started  
___ 15:21 IVF  NS 1 mL ___ Stopped (2h ___  
___ 15:21 PO/NG amLODIPine 10 mg ___  
___ 15:21 PO/NG HydrALAZINE 100 mg ___  
___ 15:21 PO/NG Metoclopramide 5 mg ___  
___ 15:21 PO/NG Lisinopril 20 mg ___  
___ 15:22 PO Potassium Chloride 40 mEq ___  
___ 16:13 SC Insulin 8 Units 

- Surgery was consulted, and per their recommendation was 
disimpacted in the ED of a moderate amount of stool.

- Vitals on transfer:  98.0, 115, 172/72, 18, 100% RA 

 
Upon arrival to the floor, the patient continues to endorse 
nausea, but no vomiting, and ongoing epigastric abdominal pain. 
She is passing gas, but has no further bowel movement. She 
denies dysuria or urinary frequency.
 

Review of Systems:  
(+) per HPI  

 
Past Medical History:
- H/o DVT 
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
- CKD 
- Cirrhosis (autoimmune presumably secondary to statin use)
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___.
Father - coronary artery disease with MI in her ___, died at 
age ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals- 97.9 BP 175/75 HR 119 RR 18 O2Sat 94%RA 
GENERAL: AOx3, NAD, appropriately interactive. 
HEENT: Normocephalic, atraumatic.  PERRLA. EOMI.  Sclera 
anicteric.  Slightly dry  mucous membranes. Oropharynx is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales. 
Resonant to percussion. 
BACK: no spinous process tenderness. no CVA tenderness. 
ABDOMEN:  Normoactive bowels sounds, non distended, slight 
tenderness to palpation in epigastrium. Tympanic to percussion.  
No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses 2+ 
DP/Radial bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Sensation 
intact to light touch throughout.  Gait not assessed.
MENTAL STATUS: A&Ox3.

DISCHARGE PHYSICAL EXAM:
========================
Physical Exam:  
Vitals- 98.4 ___ 59-66 ___
I/O: ___
Weight: 56.6kg (___) -> 60.4kg (___)
GENERAL: AOx3, NAD 
HEENT: Normocephalic, atraumatic.  PERRLA. EOMI.  Sclera 
anicteric.  Moist mucous membranes. Oropharynx is clear.
CARDIAC: Regular rhythm, normal rate, soft SEM heard throughout 
the precordium, no rubs/gallops.  No JVP elevation.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales.
ABDOMEN:  Normoactive bowels sounds, non distended, slight 
tenderness to palpation diffusely over R side, no 
rebounding/guarding. 
EXTREMITIES: No clubbing, cyanosis, or edema.  s/p R BKA.
SKIN: Palmar erythema. No spider angiomata. No evidence of 
ulcers, rash or lesions suspicious for malignancy
NEUROLOGIC: A&Ox3. CN2-12 intact.  ___ strength throughout.  
Sensation intact to light touch throughout.  No asterixis.  Gait 
not assessed. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:48PM   CK(CPK)-31
___ 05:48PM   cTropnT-0.04*
___ 05:48PM   CK-MB-2
___ 10:40AM   ___ PO2-47* PCO2-39 PH-7.45 TOTAL CO2-28 
BASE XS-2
___ 10:40AM   LACTATE-1.4
___ 10:25AM   GLUCOSE-362* UREA N-24* CREAT-1.7* SODIUM-136 
POTASSIUM-3.2* CHLORIDE-93* TOTAL CO2-25 ANION GAP-21*
___ 10:25AM   estGFR-Using this
___ 10:25AM   ALT(SGPT)-16 AST(SGOT)-21 CK(CPK)-18* ALK 
PHOS-137* TOT BILI-0.3
___ 10:25AM   LIPASE-10
___ 10:25AM   cTropnT-0.04*
___ 10:25AM   CK-MB-2
___ 10:25AM   ALBUMIN-3.8
___ 10:25AM   WBC-14.5*# RBC-3.09* HGB-9.6*# HCT-28.2* 
MCV-91 MCH-31.1 MCHC-34.0 RDW-14.2 RDWSD-46.9*
___ 10:25AM   NEUTS-88.9* LYMPHS-7.2* MONOS-2.9* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-12.91*# AbsLymp-1.04* AbsMono-0.42 
AbsEos-0.00* AbsBaso-0.06
___ 10:25AM   PLT COUNT-409*#
___ 10:25AM   ___ PTT-27.8 ___
___ 08:40AM URINE  HOURS-RANDOM
___ 08:40AM URINE  UHOLD-HOLD
___ 08:40AM URINE  COLOR-Straw APPEAR-Cloudy SP ___
___ 08:40AM URINE  BLOOD-TR NITRITE-POS PROTEIN-300 
GLUCOSE-1000 KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 08:40AM URINE  RBC-14* WBC->182* BACTERIA-MANY 
YEAST-MANY EPI-0
___ 08:40AM URINE  WBCCLUMP-MOD

MICROBIOLOGY:
=============
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
      PROTEUS MIRABILIS.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          PROTEUS MIRABILIS
                             |          |   
AMPICILLIN------------  =>32 R      <=2 S
AMPICILLIN/SULBACTAM--     4 S      <=2 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R      <=1 S
CEFTAZIDIME-----------     4 S      <=1 S
CEFTRIAXONE-----------  =>64 R      <=1 S
CIPROFLOXACIN---------   =>4 R   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

___ Blood cx x2: NGTD
___ Blood cx x3: NGTD

URINE CULTURE (Final ___:    NO GROWTH. 
___ Blood cx x2: NGTD

___ 10:29 am CSF;SPINAL FLUID      Source: LP. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH.
   Enterovirus Culture (Preliminary):    No Enterovirus 
isolated. 

 

IMAGING:
========
Chest PA&LAT (___):
FINDINGS:  
AP upright and lateral views of the chest provided.  Overlying 
EKG leads are present. There is no focal consolidation, 
effusion, or pneumothorax. The cardiomediastinal silhouette is 
normal. Imaged osseous structures are intact.  Chronic deformity 
involving the right humeral head is again noted.  No free air 
below the right hemidiaphragm is seen. 
IMPRESSION:  
No acute intrathoracic process. 

CT A&P w/o contrast (___):
FINDINGS:  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is trace right pleural effusion.  There are 
atherosclerotic calcifications of the coronary arteries. 
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout.  
Nodular contour of the liver is consistent with cirrhosis.  
There is no 
evidence of focal lesions within the limitations of an 
unenhanced scan.  There is no evidence of intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits.  Contrast within the gallbladder may represent 
vicarious excretion from prior exam. 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions within the limitations of an 
unenhanced scan.  There is no pancreatic ductal dilatation.  
There is no peripancreatic stranding. 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence of focal renal lesions within the limitations of an 
unenhanced scan.  There is no hydronephrosis.  There is no 
nephrolithiasis.  There is no perinephric abnormality. 
GASTROINTESTINAL: There is a moderate sized hiatal hernia.  
Stomach is 
otherwise unremarkable.  Small bowel loops demonstrate normal 
caliber and wall thickness throughout.  The colon is within 
normal limits.  There is a 
significant amount of stool within the rectum with mild adjacent 
stranding, potentially representing stercoral proctitis.  The 
appendix is normal. 
PELVIS: Evaluation somewhat limited by streak artifact from 
hardware in 
bilateral hips.  Bladder is decompressed and contains a Foley 
catheter.  There is no free fluid in the pelvis. 
REPRODUCTIVE ORGANS: Status post hysterectomy.  No adnexal 
masses are seen. 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
VASCULAR: There is no abdominal aortic aneurysm.  Extensive 
atherosclerotic disease is noted. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. There are degenerative changes of the lumbar 
spine with mild retrolisthesis of L5 on S1.  Left hip prosthesis 
and right femoral fixation hardware is noted. 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
IMPRESSION: 
1. Large stool burden in the rectum with mild surrounding 
stranding, 
potentially representing stercoral proctitis. 
2. Nodular liver suggesting cirrhosis. 

Non-contrast head CT (___):
FINDINGS:  
There is no evidence of acute large territorial 
infarction,hemorrhage,edema, or mass.  There is prominence of 
the ventricles and sulci suggestive of age-related involutional 
changes.  Periventricular and subcortical white matter 
hypodensities are nonspecific but likely reflect sequelae of 
chronic small vessel ischemic disease. 
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
The patient is status post bilateral lens replacements, 
otherwise the visualized portion of the orbits are unremarkable. 

IMPRESSION:  
No evidence of acute intracranial process or hemorrhage. 
  
CXR Portable (___):
FINDINGS:  
The tip of the nasogastric tube extends into the stomach. 
There is no focal consolidation, pleural effusion or 
pneumothorax identified.  The size of the cardiac silhouette is 
within normal limits. 
IMPRESSION:  
The tip of the nasogastric tube projects over the stomach. 

NEUROLOGY STUDIES:
24-hr EEG (___): PRELIM- No evidence of seizure activity or 
epileptiform discharges. Notable for diffuse slowing concerning 
for encephalopathy. 

PERTINENT LABS:
=============================
___ 10:25AM BLOOD CK-MB-2
___ 10:25AM BLOOD cTropnT-0.04*
___ 05:48PM BLOOD CK-MB-2
___ 05:48PM BLOOD cTropnT-0.04*
___ 04:55PM BLOOD CK-MB-1 cTropnT-0.07*
___ 09:05PM BLOOD CK-MB-1 cTropnT-0.05*

___ 10:25AM BLOOD ALT-16 AST-21 CK(CPK)-18* AlkPhos-137* 
TotBili-0.3
___ 05:48PM BLOOD CK(CPK)-31
___ 06:25AM BLOOD ALT-12 AST-16 LD(LDH)-220 AlkPhos-106* 
TotBili-0.2
___ 09:28AM BLOOD ALT-12 AST-22 LD(LDH)-171 AlkPhos-78 
TotBili-0.3

___ 10:40AM BLOOD Lactate-1.4
___ 12:39PM BLOOD Lactate-1.5

___ 10:40AM BLOOD ___ pO2-47* pCO2-39 pH-7.45 
calTCO2-28 Base XS-2
___ 12:39PM BLOOD ___ pO2-44* pCO2-39 pH-7.41 
calTCO2-26 Base XS-0

DISCHARGE LABS:
=======================
___ 08:20AM BLOOD WBC-7.4 RBC-2.73*# Hgb-8.3*# Hct-24.1*# 
MCV-88 MCH-30.4 MCHC-34.4 RDW-14.6 RDWSD-45.2 Plt ___
___ 08:20AM BLOOD Glucose-191* UreaN-12 Creat-1.5* Na-133 
K-3.3 Cl-102 HCO3-19* AnGap-15
___ 08:20AM BLOOD Calcium-8.3* Phos-2.7 Mg-1.___ with h/o type 1 diabetes, gastroparesis, peripheral 
neuropathy, CAD, R BKA, PAD, autoimmune hepatitis, 
hypothyroidism, depression, who initially presented with 2 days 
of nausea, multiple episodes of vomiting, and generalized 
abdominal pain, and obstipation c/w prior episodes of 
gastroparesis (treated with disimpaction and antiemetics), 
course complicated by profound AMS, most likely iso of hepatic 
encephalopathy vs. severe constipation, also with UTI (treated 
with zosyn), mental status much improved to baseline with 
administration of antibiotics and bowel regimen including 
lactulose enemas.

#Unresponsiveness: 
#Hepatic encephalopathy: Patient had 2 episodes of 
unresponsiveness on ___ AM @0800 and @1215, going from A&Ox3 to 
arousing only to a sternal/clavicular rub. Code stroke was 
called. Exam was notable for new asterixis, patient had had CT 
A/P ___ on admission which was concerning for new cirrhosis. 
CBC notable for new WBC 20.2, urine culture from ___ grew 
pansensitive proteus and MDR Ecoli, patient was treated for 
complicated cystitis with IV zoysn (also was briefly on 
vancomycin ___. EKG was without new ischemic changes, and 
was unchanged w/RBBB and LAFB. MB flat at 1 and trop 0.05<-.04. 
Given c/f stroke, NCHCT was obtained, which was w/o acute 
infarct, and was notable for chronic ___ ischemic changes, and 
overall parenchymal atrophy. 24h EEG was negative for 
electrographic seizures, did show focal slowing in the temporal 
regions, L>R, indicative of subcortical dysfunction in these 
regions. LP was not suggestive of an infectioius etiology. 
Overall c/f toxic-metabolic encephalopathy iso infection (UTI vs 
bacterial translocation iso colitis noted on CT A/P) vs 
cirrhosis given asterixis and new finding of nodular liver on CT 
A/P. Hepatology had been consulted and patient was stared on TID 
lactulose for possible hepatic encephalopathy. It should be 
noted that patient's home methadone 5mg TID (indication: chronic 
pain) was held iso AMS, constipation, and longQTc. Patient's 
mental status improved with lactulose and antibiotic treatment 
and methadone was not restarted on discharge given absence of 
pain. 

#Nausea/vomiting/constipation:
#Epigastric abdominal pain 
#Gastroparesis flare: Patient with hx of gastroparesis 
characterized by nausea, vomiting, and constipation, which is 
managed with PO metoclopramide, PO zofran, as well as standing 
docusate, senna, and miralax at home. Patient had nausea and 
multiple episodes of vomiting for the last 48hrs prior to 
admission. Unknown etiology of flare, no evidence for cardiac 
event, possibly iso cystitis or severe constipation. KUB w/o 
evidence of obstruction, but w/transverse colon dilatation c/w 
colonic ileus. CT A/P showed large stool burden potentially 
representing stercoral proctitis, nodular liver suggesting 
cirrhosis. She was manually disimpacted in the ED. Elevated QTc 
(likely iso methadone, home antiemetics), affected antiemetic 
regimen. Patient was largely given IV reglan and Ativan. Given 
ongoing nausea/vomiting, NGT was placed ___. There was some 
concern for a GIB given black appearing emesis, though this was 
gastroccult NEGATIVE. Hepatology did not think there was any 
need for urgent EGD, GIB unlikely. Repeat CT A/P ___ showed 
expected sequelae of previously noted stercoral colitis. Course 
was been complicated by hypovolemia, patient with dry mucous 
membranes on exam with likely hypovolemic hyponatremia and 
elevated Cr. She was given IVF repletion and briefly started on 
tube feeds. Patient was evaluated by speech and swallow prior to 
discharge who recommended nectar thick liquids and ground solids 
(see full recommendations below). Antiemetic regimen was 
converted to PO prior to discharge, patient will continue on PO 
reglan. 

# Complicated cystitis: Patient with chronic indwelling Foley 
(was d/c'd with Foley on ___ in the setting of urge 
incontinence ___ diabetic neuropathy. UA positive in ED, UCx 
speciated pansensitive proteus and MDR Ecoli (resistant to 
ampicillin/cefazolin/CTX/cipro, sensitive to 
___. Foley catheter was 
replaced. Patient was treated with full course of IV zosyn for 
complicated cystitis. She will have follow-up with urogynecology 
as an outpatient for evaluation for foley removal. Foley last 
changed on ___.

# Hypertension: Patient has a hx of labile blood pressures. SBPs 
in the 130s-180s during the day with peaks into the 200s 
overnight with tachycardia not responding to IV hydralazine, 
though seemed to respond to PO labetolol prn. Patient denied any 
headache, visual changes, lightheadedness, or dizziness. 
Carvedilol 6.25mg BID was started with only mild improvement in 
BPs, uptitrated to 6.25AM and 12.5PM given ___ HTN. Patient 
continues with ___ systolic HTN, SBPs 150-180s. Options for 
further increases as an outpatient: can increase lisinopril or 
possibly make BID, can increase clonidine/imdur further, can 
increase AM carvedilol. 

# Cirrhosis on CT A/P: Cirrhosis noted on CT A/P on ___ and 
on ___, transaminases on admission wnl though w/mildly 
elevated Alk phos. Normal synthetic function, INR ~1.1. Followed 
by Dr. ___. Hepatic dysfunction was initially seen 
(transaminitis) while on atorvastatin in late ___. At that 
time, she had negative serologies for HAV, HBV, and HCV, neg 
anti-mitochondrial Ab, no e/o iron overload w/ferritin 184 and 
TIBC 325, ___ positive at 1:160, anti-Sm positive at 1:20, and 
neg anti-microsomal liver/kidney Ab, and liver biopsy c/w 
autoimmune hepatitis, as well as some fibrosis thought to be 
caused by the prior, as well as coexistent fatty liver disease; 
fibrosis was not yet cirrhosis. Transaminitis improved once 
atorvastatin was discontinued, and likely etiology of hepatitis 
was statin-induced autoimmune hepatitis. Plan is for patient to 
follow-up with Dr. ___ in ___ for fibroscan and then to 
obtain serial RUQ U/S q6months if c/w cirrhosis as well as upper 
endoscopy to look for varices. 

# Normocytic anemia - Patient with chronic anemia likely 
secondary to acute on chronic illness, phlebotomy and poor 
nutrition. She was transfused one unit PRBCs prior to discharge, 
though Hb nadir of 6.2 was likely spurious. Reticulocyte count 
was appropriately elevated in the setting of acute on chronic 
anemia. Iron studies consistent with ACD, ferritin elevated to 
181 (Iron 58, Fe sat 41%). Hb on day prior to discharge: 8.3. 

# Type 1 Diabetes: Patient has history of labile blood sugars 
and intermittent asymptomatic hypoglycemia. HgA1c 6.2 on 
___. Has been followed by ___ during previous admissions. 
She has been stable on lantus 6U QAM and 8U QHS and novolog 2+1 
for every 50 mg/dL starting at 150 at meals and 1+1 for every 50 
mg/dL starting at 200 at bedtime. FSGs in the 100s-300s
- Continued home lantus 6U QAM and 8U QHS
- HISS using patient's home regimen as described 

# Chronic kidney disease stage III: 
# Urinary retention: Pt admitted with Cr 1.7, which is her b/l 
Cr 1.7-1.8 in setting of CKD. Hx of urge incontinence with 
retention from diabetic induced urinary neuropathy, and had 
required intermittent straight cath for retention during last 
admission. Also some concern for chronic diabetic nephropathy as 
well. Was d/c'ed on ___ with foley, which was replaced in 
the ED given cystitis.

TRANSITIONAL ISSUES
===================
- Patient with chronic underlying foley secondary to 
incontinence and failure to void on her own. Replaced on 
___. Should be replaced monthly. Scheduled for follow up 
with urology upon discharge for evaluation and removal as well 
as monitoring of hematuria.

- Patient admitted on methadone that was stopped secondary to 
severe somnolence and long QTc (>500 on admission). This 
medication was not restarted on discharge given lack of pain and 
altered mental status. Please avoid opiates for pain in setting 
of constipation and somnolence. 

- Decreased citalopram to 10mg daily in setting of long QT and 
multiple medication interactions. Please discontinue after 3 
weeks. 

- QTc on discharge 440, please avoid additional QT prologuing 
agents 

- Patient with systolic hypertension, eventually better 
controlled with addition of carvedilol, though still with 
largely overnight HTN. Please ensure that patient is have blood 
pressures checked daily at home, including at night. Options for 
further increases as an outpatient: can increase lisinopril or 
possibly make BID, can increase clonidine/imdur further, can 
increase AM carvedilol. For additional overnight blood pressure 
control, ensure that head of bed is at 30degrees, may also 
consider overnight TEDs. 

- Patient severely constipated on admission. Discharged ___ 
aggressive bowel regimen of senna, Colace, miralax, and 
lactulose as needed. Please titrate up/down as needed on an 
outpatient basis. 

- Patient with chronic anemia without evidence of bleeding. 
Please repeat CBC at follow up appointment to ensure improvement 
to baseline. H&H on discharge 8.3 and 24.1

- Speech and swallow evaluated patient prior to discharge given 
her risk of aspiration. Their recommendations are as follows:
RECOMMENDATIONS:
1) Diet: ground solids with nectar thick liquids
2) Medications: Whole in pureed solids
3) Oral care: BID oral care
4) Standard Aspiration & Reflux Precautions:
-Meals and Meds at full 90 degree angle
-1:1 assist with meals
-Small sips by cup / No straws / single sips
-Alternate foods/liquids
-Monitor for regurgitation
-Small frequent meals as needed.
5) Recommend outpatient videoswallow evaluation given
chronic nature of dysphagia.

- Patient has ill-fitting dentures, recommend follow up for 
better denture fitting. 

- Patient with compensated cirrhosis on CT scan. Follow up 
scheduled with her hepatologist on discharge. 

- patient with CKD, discharge Cr at baseline of 1.5

- discharge weight: 57.1kg (standing with R prosthesis)

=======================
# CODE: full (confirmed)
# CONTACT: husband/HCP ___ ___ son ___ 
___ ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
5. Aspirin 81 mg PO DAILY 
6. Citalopram 20 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Docusate Sodium 200 mg PO DAILY 
9. Ferrous GLUCONATE 324 mg PO DAILY 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. HydrALAZINE 100 mg PO Q8H 
12. Levothyroxine Sodium 88 mcg PO DAILY 
13. Lidocaine 5% Ointment 1 Appl TP BID 
14. Methadone 5 mg PO TID 
15. Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash 
16. Pantoprazole 40 mg PO Q24H 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. Senna 8.6 mg PO BID:PRN constipation 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
21. Metoclopramide 5 mg PO QIDACHS 
22. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
23. Rosuvastatin Calcium 10 mg PO QPM 
24. travoprost 0.004 % ophthalmic QPM 
25. Calcium Carbonate 500 mg PO DAILY 
26. Multivitamins 1 TAB PO DAILY 
27. CloNIDine 0.2 mg PO BID 
28. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
29. Lisinopril 30 mg PO DAILY 
30. Ascorbic Acid ___ mg PO BID 
31. Calcitriol 0.25 mcg PO DAILY 
32. Cyanocobalamin 1000 mcg PO DAILY 
33. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
34. Glargine 6 Units Breakfast
Glargine 8 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin

 
Discharge Medications:
1.  Carvedilol 6.25 mg PO QAM  
2.  Carvedilol 12.5 mg PO QPM  
3.  Lactulose 15 mL PO DAILY:PRN constipation 
please take if no bowel movement in 48 hours  
4.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
5.  Citalopram 10 mg PO DAILY Duration: 21 Days 
please stop after 3 weeks  
6.  Docusate Sodium 100 mg PO BID  
7.  Glargine 6 Units Breakfast
Glargine 8 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin 
8.  Polyethylene Glycol 17 g PO DAILY constipation  
9.  Senna 17.2 mg PO BID constipation  
10.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
11.  amLODIPine 10 mg PO DAILY  
12.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
13.  Ascorbic Acid ___ mg PO BID  
14.  Aspirin 81 mg PO DAILY  
15.  Calcitriol 0.25 mcg PO DAILY  
16.  Calcium Carbonate 500 mg PO DAILY  
17.  CloNIDine 0.2 mg PO BID  
18.  Clopidogrel 75 mg PO DAILY  
19.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
20.  Cyanocobalamin 1000 mcg PO DAILY  
21.  Ferrous GLUCONATE 324 mg PO DAILY  
22.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
23.  HydrALAZINE 100 mg PO Q8H  
24.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
25.  Levothyroxine Sodium 88 mcg PO DAILY  
26.  Lidocaine 5% Ointment 1 Appl TP BID  
27.  Lisinopril 30 mg PO DAILY  
28.  Metoclopramide 5 mg PO QIDACHS  
29.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
30.  Multivitamins 1 TAB PO DAILY  
31.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
32.  Pantoprazole 40 mg PO Q24H  
33.  Rosuvastatin Calcium 10 mg PO QPM  
34.  Tiotropium Bromide 1 CAP IH DAILY  
35.  travoprost 0.004 % ophthalmic QPM  
36.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
=================
Gastroparesis
Obstipation
Complicated cystitis
Hepatic encephalopathy
Hepatic cirrhosis

Secondary Diagnoses
===================
Normocytic anemia
Type I Diabetes
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were having nausea 
and vomiting, most likely due to your known gastroparesis.  You 
were also severely constipated, which likely worsened your 
symptoms.  You were disimpacted (manual removal of stool) and 
given medications to treat your nausea and constipation.  

Your hospitalization was complicated by confusion and 
unresponsiveness.  You had imaging of your brain, an EEG (to 
check for seizures), and blood tests, all of which were 
unremarkable.  The neurologists came to evaluate you and did not 
think that you were having a stroke or seizure.  You did have a 
CT scan of your belly, which showed liver abnormalities 
(cirrhosis).  The liver doctors ___ that your confusion may 
have been related to liver disease.  You were also treated for a 
urinary tract infection, which can make you more confused.  Your 
thinking became much clearer with the administration of 
antibiotics and medications to ensure frequent bowel movements.  
Your methadone was also stopped to avoid any worsening 
confusion.  

It is very important that you take your medications as 
prescribed, we have made the following changes:
- REDUCED your citalopram from 20mg to 10mg daily. Please stop 
this medication after 3 weeks because it interacts with many of 
your other medications
- STOPPED your methadone because it is no longer needed 
- SCHEDULED an aggressive bowel regimen with senna, Colace, and 
miralax. We also STARTED lactulose to be used if you have not 
had a bowel movement in 48 hours. 
- STARTED Carvedilol 6.25mg in the morning and 12.5mg at night 
for your blood pressure. 

Please follow-up with your doctors as listed below.

It was a pleasure taking care of you!

Sincerely,

Your ___ Care Team       
 
Followup Instructions:
___